US06051712
In an analogous manner to that described in Example 5 b), by reducing methyl 4,8-dimethoxy-naphthalene-2-carboxylate (J.Chem.Soc. 1959, 1024) by means of lithium aluminium hydride there was obtained (4,8-dimethoxy-naphthalen-2-yl)-methanol, MS: 218 (M)+, as a colourless solid.

reactant | methyl 4,8-dimethoxy-naphthalene-2-carboxylate | COC1=CC(=CC2=C(C=CC=C12)OC)C(=O)OC | C14H14O4
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | (4,8-dimethoxy-naphthalen-2-yl)-methanol | COC1=CC(=CC2=C(C=CC=C12)OC)CO | C13H14O3
